US04057537
[85/15, L-(-)-Lactide/Epsilon Caprolactone]
The procedure of Example II is repeated except that 461 grams of L-(-)-lactide, 5.4 ml of benzene containing 1.1 gram of pure stannous caprylate and 81.3 grams of epsilon caprolactone are placed in the ampoule, evacuated, sealed and heated for 15.5 hours at 136° to 140° C. The copolymer has an outstanding combination of physical properties. The copolymer is a tough, strong, clear material. It has good impact resistance and a good combination of tensile strength and elongation properties. The copolymer has GPC molecular weights of Mw = 192,200 and Mn = 44,900. The residual lactide comprises 1.15 percent. Differential thermal analysis (DTA) of the copolymer reveals a moderate amount of crystallinity with a melting point endotherm at 133° C. Molded sheets of the copolymer are clear, colorless, supple and tough. Physical properties are listed in more detail in Table 1.

reactant | L-(-)-lactide | 461 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | epsilon caprolactone | 81.3 grams | C1(CCCCCO1)=O | C6H10O2
solvent | benzene | 5.4 ml, 1.1 gram | C1=CC=CC=C1 | C6H6
product | L-(-)-Lactide Epsilon Caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
